US05439917
A deaerated solution of 6-bromo-2,3-dimethyl-pyrrolo [2,3-b]pyridine (225 mg, 1.0 mmol) in 25 ml dry THF was cooled to -78° C. and treated with 1.6M n-BuLi in hexane (1,5 ml, 2.4 mmol). The reaction mixture was brought to 0° C. and the lithiate trapped with dimethyl disulfide (444 μl, 5 mmol). After reacting for 5 min 1.5 ml H2O was added and the THF evaporated. The residue was taken up in 100 ml CH2Cl2 and washed with 50 ml 5% NaHCO3, 50 ml 2M HCl (reextracted twice with 25 ml CH2Cl2), and 50 ml 5% NaHCO3. The organic layer was dried over MgSO4 and evaporated leaving 160 mg (83%) pure 2,3-dimethyl-6-methylthio-pyrrolo[2,3-b]pyridine.

reactant | 6-bromo-2,3-dimethyl-pyrrolo [2,3-b]pyridine | 1.0 mmol, 225 mg | BrC1=CC=C2C(=N1)NC(=C2C)C | C9H9BrN2
reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | hexane | 2.4 mmol, 1,5 ml | CCCCCC | C6H14
reactant | dimethyl disulfide | 5 mmol, 444 μl | CSSC | C2H6S2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | H2O | 1.5 ml | O | H2O
product | 2,3-dimethyl-6-methylthio-pyrrolo[2,3-b]pyridine | 160 mg, 83% | CC1=C(C=2C(=NC(=CC2)SC)N1)C | C10H12N2S
